US08357693B2
A suspension of 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid (70 mg, 0.14 mmol), PyBOP® (40 mg, 0.077 mmol), DIEA (24 μL, 0.14 mmol) in dry CH2Cl2:DMF (2:0.1 mL) was stirred at RT for 15 minutes. To this solution of activated acid was added propan-2-amine (5.4 mg, 0.091 mmol). After 30 minutes, 1.0 equivalent of DIEA and 0.55 equivalents of PyBOP® were added. After stirring the solution for 15 minutes, 0.65 equivalents of propan-2-amine were added and the mixture was stirred for an additional 30 minutes. The solvent was removed in vacuo and the crude product was purified using prep HPLC (25-50—90 mins) to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-isopropylacetamide. (40 mg, 0.086 mmol, 61%).

reactant | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | 0.14 mmol, 70 mg | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.14 mmol, 24 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | propan-2-amine | 0.091 mmol, 5.4 mg | CC(C)N | C3H9N
reactant | DIEA | 1.0 equivalent | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.55 equivalents | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | propan-2-amine | 0.65 equivalents | CC(C)N | C3H9N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-isopropylacetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)NC(C)C)C=CC1 | C26H24N6O2
